data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6440,"C1=CC=[N:1]C=C1.CC(=O)C1=CN=CC=C1.O[NH2+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7882,"C=C(COCC1=CC=CC=C1)CC(C)CC(O[Si](C(C)C)(C(C)C)C(C)C)C(O[Si](C)(C)C)C1CC(C(C)CC(C)CN=[N+]=[N-])=[O+:1][Li-:2][O]1|((2, 1), 1)"
train,pmechdb_split_0,0,4355,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C(C1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5769,"CC[CH:1]=[OH+:2].C[CH:3]=[CH:4][OH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5030,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCCCC1CCC(=[O:2])O1|(2, 1)"
train,pmechdb_split_0,0,8632,"C[O+:1]([B-](F)(F)F)[CH:2](C)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9604,"CC[CH+:1]OC.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,2569,"[CH3][Mg-]([I])[P+:1](Cl)(Cl)Cl.[I][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,4908,"CC1(C)CC23CCC(CCCC2O1)C3=[O+:1][Si-:2](C)(C)(C)OS(=O)(=O)C(F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,8626,"CC(=C[O-:1])C1C(C)CC(C)C1[CH:2]=[N+:3](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,286,"CCO[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1840,"NC1=CN=CC=[C-:1]1.[H:2][NH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3409,"FC(F)(F)[C:1]([O:2][O:3][H:4])=[O:5]|(2, 1);((1, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8170,"[AlH3].[H:1][OH:2].[Li][O:3]C(C)C(C)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6017,"CO[CH:1]=[OH+:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2160,"C[S:1]C[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1622,"C=C[CH2:1][Mg:2][Br].CC1=CC=C(S(=O)(=O)OCC2[CH2:3][O:4]2)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5693,"CCCCCC1CC2[CH:1]=[CH:2]C1[CH:3]2[O:4]S(=O)(=O)C1=CC=C(C)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4974,"C1=CC=C([C:1](C2=CC=CC=C2)=[S:2])C=C1.CCC[CH2:3][Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5372,"C=CC(=O)OC(C)([O-])[O+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,472,"CC(=O)[O-:1].CC(C)(C)[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,5874,"CCC=C(C)C(O[B:1](C1CCCCC1)C1CCCCC1)C(C)C(=O)C(C)COCC1=CC=CC=C1.O[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1523,"CC(C)[C:1]1([H:2])C=CC=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2921,"CCO.O.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CC[C:1]2(CC1CC1=CC=CC=C1)[OH+:2]CC[O:3]2.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7609,"CCCCCC(C[C:1]#[C:2]CCCCC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1731,"CCC(=O)N[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5279,"COC1=C(N)C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O=N[O-:1].[H:2][Cl:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1093,"C1=CC=C(C2(C3=CC=CC=C3)CC[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5796,"OCCC(O)=[O+][S:1](Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7273,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1N(CCC1(OCCO)[OH+:1][H:2])C2=O.O.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2415,"COC1=CC=C(COC2CC(CC(OC)C(CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[NH2+:1][P:2](C3=CC=CC=C3)(C3=CC=CC=C3)(C3=CC=CC=C3)[O-:3])OC(C)(OC)C2)C=C1.N#N.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7756,"CCN=C(NCCCN(C)C)O[C:1](CNC(=O)OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)=[O:2].ClC1=CC=C([NH2:3])C(I)=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8786,"O=C(C1=CC=CC=C1)[CH2:1][Cl:2].OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6080,"CCO.Cl[C:1](Cl)(Cl)[H:2].NC1=CC=CC(N)=N1.[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,434,"CC(=O)CC(C1=CC=CC=C1)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8912,"CC[C:1]1=[C:2]([O:3]C)C=C[C:4](C[CH2:5][O:6]S(=O)(=O)C2=CC=C(C)C=C2)=[CH:7]1.O=CO|(3, 2);((2, 1), 7);((7, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6550,"C1=CC2CCC(C1)[N+:1]2=[CH2:2].CC(=O)O.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8225,"CCC(C)O[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4735,"C1CCNCC1.CC(=O)[O-].CCC(C)C[CH:1]([N:2]1CCCCC1)[OH2+:3].CCOC(=O)CC(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1759,"CC(C)CC(C[C:1]#[C:2]CC(C)C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3521,"CC(C)N(C(OC1=[C-:1]C(F)=CC=C1)=[O+][Li-:2][NH+](C(C)C)C(C)C)C(C)C|(1, 2)"
train,pmechdb_split_0,0,7207,"BrC(Br)Br.FC1=CC=CC(C#C[CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,886,"CC[O+:1](C(C)(C)Br)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5211,"CC12CCCC=C1C=C([N+:1]1([CH3:2])CCCC1)CC2.[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3149,"COC1=[C+:1]C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)[F:2].N#N|(2, 1)"
train,pmechdb_split_0,0,2357,"CC[O:1]C(O)(O)CC(=O)O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
